US07932272B2
2-Chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide
To a solution of 2-chloro nicotinic acid (1182 mg, 7.50 mmol) in N,N-dimethylformamide (3 mL) were added C-(5-phenoxy-thiophen-2-yl)methylamine described in Preparation Example 24 (1693 mg, 8.25 mmol), benzotriazol-1-yloxy tris(dimethylamino)phosphonium hexafluorophosphate (3987 mg, 9.0 mmol) and triethylamine (2.5 mL, 18.0 mmol), and the solution was stirred at 60° C. for 2 days. Water was added to the reaction mixture, which was then extracted with ethyl acetate, and then concentrated. The residue was purified by silica gel column chromatography, and the title compound (1181 mg, 3.43 mmol, 46%) was obtained.

reactant | 2-chloro nicotinic acid | 7.50 mmol, 1182 mg | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | C-(5-phenoxy-thiophen-2-yl)methylamine | O(C1=CC=CC=C1)C1=CC=C(S1)CN | C11H11NOS
reactant | benzotriazol-1-yloxy tris(dimethylamino)phosphonium hexafluorophosphate | 9.0 mmol, 3987 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 18.0 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-Chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 3.43 mmol, 1181 mg, 46% | ClC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC=N1 | C17H13ClN2O2S
